US05204362
1-Phenylthio-1-(1,2,4-triazol-1-yl)-2-(4-methylphenoxy)-propane
13 q (0.12 mol of thiophenol were added slowly at 25° C. to a solution of 4.0 g of sodium hydride (80% strength by weight suspension in mineral oil) and 100 ml of N,N-dimethylformamide, followed, after stirring for 30 minutes, by 19.8 g (0.08 mol) of 1-chloro-1-(1,2,4-triazol-1-yl)-2-(4-methylphenoxy)-propane. After a reaction time of 24 hours at 25° C., 100 ml of water were added. Extraction with methyl tert-butyl ether was carried out, after which the organic phase was washed and was worked up in a conventional manner.

reactant | thiophenol | 0.12 mol | C1(=CC=CC=C1)S | C6H6S
reactant | sodium hydride | 4.0 g | [H-].[Na+]
reactant | N,N-dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
reactant | 1-chloro-1-(1,2,4-triazol-1-yl)-2-(4-methylphenoxy)-propane | 0.08 mol, 19.8 g | ClC(C(C)OC1=CC=C(C=C1)C)N1N=CN=C1 | C12H14ClN3O
solvent | water | 100 ml | O | H2O
product | 1-Phenylthio-1-(1,2,4-triazol-1-yl)-2-(4-methylphenoxy)-propane | C1(=CC=CC=C1)SC(C(C)OC1=CC=C(C=C1)C)N1N=CN=C1 | C18H19N3OS
